US04363807
A suspension of 10% palladium carbon (16 g) in acetic acid (50 ml) was added to a solution of t-butyl 7-(2-phenylacetamido)-3-hydroxymethyl-2-cephem-4-carboxylate (9.0 g) in ethanol (300 ml.), and the mixture was subjected to catalytic reduction at 65° C. in the presence of hydrogen at 20 atm. for 9 hours. After removing the insoluble substance by filtration, the filtrate was concentrated in vacuo. The residue was dissolved in ethyl acetate (150 ml.) and adjusted to pH 7.5 with aqueous solution of sodium bicarbonate. The organic layer was separated, washed with saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated in vacuo. The residue was pulverized with petroleum ether and collected by filtration to give t-butyl 7-(2-phenylacetamido)-3-hydroxymethylcepham-4-carboxylate (5.0 g.).

reactant | t-butyl 7-(2-phenylacetamido)-3-hydroxymethyl-2-cephem-4-carboxylate | 9.0 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(=CS2)CO)C(=O)OC(C)(C)C)C1=O | C20H24N2O5S
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | palladium carbon | 16 g | [C].[Pd]
product | t-butyl 7-(2-phenylacetamido)-3-hydroxymethylcepham-4-carboxylate | 5.0 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(CS2)CO)C(=O)OC(C)(C)C)C1=O | C20H26N2O5S
